US04475003
It has been disclosed that, when chloroform is reacted with oct-1-ene in the presence of benzoyl peroxide, 1,1,1-trichlorononane is formed in a yield of from 22 to 40%, based on the olefin, and with a selectivity of from 41 to 48%, conversion of the olefin being incomplete (J. Amer. Chem. Soc. 69 (1947), 1100-1104, in particular page 1104; and J. Chem. Soc. 1963, 3921-3927, in particular page 3927). The free-radical addition reactions of chloroform with other olefins also in general give only moderate yields (C. Walling and E. S. Hugser, Org. Reactions 13 (1963), 129).

reactant | oct-1-ene | C=CCCCCCC | C8H16
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,1,1-trichlorononane | ClC(CCCCCCCC)(Cl)Cl | C9H17Cl3
